US08182718B2
Huj=N-(6-Methylpyridin-2-ylmethyl)pyridin-2-amine
To a flask were added 1.9 g of 2-aminopyridine, 2.4 g of 6-methyl-2-pyridinecarboxaldehyde and 45 ml toluene. The flask was equipped with a Dean-Stark trap and heated to reflux under nitrogen. After 16 hours, the toluene was removed and 40 ml ethanol were added followed by 0.83 g of sodium borohydride. The mixture was stirred at 22 C under nitrogen for 1 hour, and then 30 ml of water were added slowly. Following removal of the ethanol, 60 ml 1M hydrochloric acid was added cautiously, and the aqueous layer was washed with 20 ml ethyl acetate. After basifying with aqueous ammonium hydroxide, the product was extracted with 50 ml ethyl acetate and the solvent was removed. The product was purified by silica gel chromatography using 74% ethyl acetate, 24% hexane, and 2% methanol resulting in 1.5 g of a yellow oil that solidified on standing.

reactant | 2-aminopyridine | 1.9 g | NC1=NC=CC=C1 | C5H6N2
reactant | 6-methyl-2-pyridinecarboxaldehyde | 2.4 g | CC1=CC=CC(=N1)C=O | C7H7NO
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | N-(6-Methylpyridin-2-ylmethyl)pyridin-2-amine | CC1=CC=CC(=N1)CNC1=NC=CC=C1 | C12H13N3
